US07763639B2
3-BROMO-2-FLUOROBENZOIC ACID
To a solution of 1-bromo-2-fluorobenzene (6.0 g, 34.3 mmol) in dry tetrahydrofuran (50 ml) under nitrogen, at −78° C. was added lithium diisopropylamide (2.5 M in hexane, 18.8 ml, 37.7 mmol). The mixture was stirred for 50 minutes and then poured onto crushed solid carbon dioxide. The reaction mixture was brought to ambient temperature and aqueous sodium carbonate (10%, 50 ml) was added. The aqueous phase was washed with diethyl ether (2×100 ml), and then made acidic by addition of aqueous hydrochloric acid. The acidified aqueous phase was extracted with ethyl acetate (2×50 ml) and the combined organic phases was dried (MgSO4) and evaporated to dryness to give the title compound (4.24 g).

reactant | 1-bromo-2-fluorobenzene | 34.3 mmol, 6.0 g | BrC1=C(C=CC=C1)F | C6H4BrF
reactant | lithium diisopropylamide | 37.7 mmol, 2.5 M, 18.8 ml | C(C)(C)[N-]C(C)C.[Li+]
reactant | carbon dioxide | C(=O)=O | CO2
reactant | sodium carbonate | 50 ml | C([O-])([O-])=O.[Na+].[Na+]
solvent | tetrahydrofuran | 50 ml | O1CCCC1 | C4H8O
product | 3-BROMO-2-FLUOROBENZOIC ACID | 4.24 g | BrC=1C(=C(C(=O)O)C=CC1)F | C7H4BrFO2
